US04659717
B. Preparation of 4-(5-bromobenzo[b]thien-3-yl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid, diethyl ester.
A mixture of 2.35 g of 5-bromo-3-(dibromomethyl)benzo[b]thiophene and 1.6 g of ethyl 3-aminocrotonate in 4 ml of ethanol was heated to reflux for 14 hours. The mixture was evaporated in vacuo and the residue was purified by chromatography over silica gel to provide 0.8 g of the desired title product, m.p. 68°-70° C.

reactant | 5-bromo-3-(dibromomethyl)benzo[b]thiophene | 2.35 g | BrC1=CC2=C(SC=C2C(Br)Br)C=C1 | C9H5Br3S
reactant | ethyl 3-aminocrotonate | 1.6 g | N\C(=C/C(=O)OCC)\C | C6H11NO2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-(5-bromobenzo[b]thien-3-yl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid, diethyl ester | 0.8 g | BrC1=CC2=C(SC=C2C2C(=C(NC(=C2C(=O)OCC)C)C)C(=O)OCC)C=C1 | C21H22BrNO4S
